US07754737B2
A 250 mL three-necked flask was charged with magnesium turnings (2.88 g, 0.12 mol) and a small crystal of iodine in THF (20 mL). The flask was evacuated and refilled with N2. A solution of 1-chloro-4-methoxybutane (15 g, 0.12 mol) in THF (40 mL) was added dropwise to the above mixture. After heating under reflux for 1 h, most of magnesium was consumed, the reaction mixture cooled to rt. Another 250 mL three-necked flask was charged with (R)-3-(3-chloro-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester (3.24 g, 10 mmol) and THF (50 mL), which was evacuated and refilled with N2. The mixture was cooled with dry ice-acetone bath and the Grignard reagent derived from 1-chloro-4-methoxybutane (20 mL) was added dropwise. After addition, the mixture was allowed to warm slowly to rt and stirred for 2 h. The mixture was quenched with sat'd aq NH4Cl (100 mL), extracted with EtOAc (3×80 mL). The combined organic layers were washed with brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by flash column chromatography (EA/PE 10:90) to give (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate (3.0 g, 73%). 1H NMR (400 MHz, CDCl3): 1.45 (s, 9H), 1.52-1.58 (m, 3H), 1.75 (m, 1H), 1.92 (m, 2H), 2.52 (m, 2H), 3.25 (s, 3H), 3.27 (m, 2H), 3.95 (m, 1H), 4.35 (m, 1H), 7.20-7.26 (m, 3H), 7.36 (m, 1H). MS (E/Z): 412 (M+H+).

reactant | magnesium | 0.12 mol, 2.88 g | [Mg] | Mg
reactant | iodine | II | I2
reactant | 1-chloro-4-methoxybutane | 0.12 mol, 15 g | ClCCCCOC | C5H11ClO
reactant | (R)-3-(3-chloro-benzoyl)-piperidine-1-carboxylic acid tert-butyl ester | 10 mmol, 3.24 g | C(C)(C)(C)OC(=O)N1C[C@@H](CCC1)C(C1=CC(=CC=C1)Cl)=O | C17H22ClNO3
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)piperidine-1-carboxylate | 3.0 g, 73% | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34ClNO4
